US07173040B2
Raney nickel (0.55 g) was added to a mixture of 4-[amino[4-(3-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-6-quinolinyl](1-methyl-1H-imidazol-5-yl)methyl]-benzonitrile, (0.0011 mol) in CH3OH/NH3 7N (12 ml) under N2 flow. The mixture was hydrogenated overnight under a 5 bar pressure, then filtered over celite. The filtrate was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH/NH4OH 92/8/0.5; 15–40 μm). The pure fractions were collected and the solvent was evaporated, yielding 0.36 g (65%)g of 6-[amino[4-(aminomethyl)phenyl](1-methyl-1H-imidazol-5-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone, mp. 150° C.

reactant | 4-[amino[4-(3-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-6-quinolinyl](1-methyl-1H-imidazol-5-yl)methyl]-benzonitrile | 0.0011 mol | NC(C1=CC=C(C#N)C=C1)(C1=CN=CN1C)C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)Cl | C28H22ClN5O
catalyst | Raney nickel | 0.55 g | [Ni] | Ni
solvent | CH3OH NH3 | 7N, 12 ml | CO.N
product | 6-[amino[4-(aminomethyl)phenyl](1-methyl-1H-imidazol-5-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone | NC(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)Cl)(C1=CN=CN1C)C1=CC=C(C=C1)CN | C28H26ClN5O
